US08877780B2
TEA (0.28 g, 2.8 mmol) was added to a mixture of 3-(5-aminomethyl-1-oxo-1,3-dihydro-isoindol-2-yl)-piperidine-2,6-dione methanesulfonate (0.50 g, 1.4 mmol) and 4-(trifluoromethylthio)phenyl isocyanate (0.31 g, 1.4 mmol) in acetonitrile (30 mL) at 0° C. The reaction was stirred at 0° C. for 2 h and then 4% aqueous HCl (30 mL) was added. The solid precipitate was filtered and dried in vacuo providing 1-[2-(2,6-dioxo-piperidin-3-yl)-1-oxo-2,3-dihydro-1H-isoindol-5-ylmethyl]-3-(4-trifluoromethylsulfanyl-phenyl)-urea as a white solid (0.34 g, 51% yield); mp 218-220° C.; HPLC, Waters Symmetry C-18, 3.9×150 mm, 5 μm, 1 ml/min, 240 nm, 50/50 CH3CN/0.1% H3PO4, 3.18 (97.19%); 1H NMR (DMSO-d6) δ 1.97-2.02 (m, 1H), 2.31-2.46 (m, 1H), 2.57-2.63 (m, 1H), 2.87-2.98 (m, 1H), 4.28-4.48 (m, 4H), 5.11 (dd, 1H, J=13.2 Hz, J=5.1 Hz), 6.92 (t, 1H, J=6.0 Hz), 7.45 (d, 1H, J=8.1 Hz), 7.52-7.64 (m, 5H), 7.70 (d, 1H, J=7.8 Hz), 9.08 (s, 1H), 10.98 (s, 1H); 13C NMR (DMSO-d6) δ 22.5, 31.2, 42.8, 47.1, 51.5, 113.0, 118.4, 121.9, 122.9, 126.9, 129.6 (q, J=306 Hz), 130.3, 137.3, 142.4, 143.6, 144.5, 154.8, 167.9, 171.0, 172.8; LCMS: MH=493; Anal. Calcd for C22H19F3N4O4S+0.2H2O: C, 53.27; H, 3.94; N, 11.29. Found: C, 53.06; H, 3.59; N, 11.12.

reactant | 3-(5-aminomethyl-1-oxo-1,3-dihydro-isoindol-2-yl)-piperidine-2,6-dione methanesulfonate | 1.4 mmol, 0.50 g | CS(=O)(=O)O.NCC=1C=C2CN(C(C2=CC1)=O)C1C(NC(CC1)=O)=O
reactant | 4-(trifluoromethylthio)phenyl isocyanate | 1.4 mmol, 0.31 g | FC(SC1=CC=C(C=C1)N=C=O)(F)F | C8H4F3NOS
reactant | HCl | 30 mL | Cl | ClH
solvent | acetonitrile | 30 mL | C(C)#N | C2H3N
product | 1-[2-(2,6-dioxo-piperidin-3-yl)-1-oxo-2,3-dihydro-1H-isoindol-5-ylmethyl]-3-(4-trifluoromethylsulfanyl-phenyl)-urea | 0.34 g, 51% yield | O=C1NC(CCC1N1C(C2=CC=C(C=C2C1)CNC(=O)NC1=CC=C(C=C1)SC(F)(F)F)=O)=O | C22H19F3N4O4S
